US07151105B2
2-[4-(2-{2-Cyclopentyl-5-[(1,3-dimethyl-1H-1,2,4-triazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-fluorophenyl]-2-methylpropanenitrile
The title compound was prepared analogously to example A(1), where 2-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl-2-methyl-propionitrile.from step 3 below, was substituted in place of 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione and 2,5-Dimethyl-2H-[1,2,4]triazole-3-carbaldehyde was substituted instead of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde in that example. 1H NMR (300 MHz, DMSO-d6): δ 1.49–1.69 (m, 8 H), 1.72 (s, 6 H), 2.06 (s, 3 H), 2.11 (s, 3 H), 2.12–2.13 (m, 2 H), 2.34–2.42 (m, 1H), 2.55–2.66 (m, 3H), 2.80 (d, J=17 Hz, 1 H), 3.42–3.65 (m, 2 H), 7.08–7.18 (m, 2 H), 7.35–7.40 (m, 1 H). Anal. Calcd. For C27H33FN4O3.0.25 H2O: C, 66.85; H, 6.96; N, 11.55; Found: C, 66.88; H, 6.99; N, 11.60. ESIMS (MH+): 481.

reactant | 4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl-2-methyl-propionitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
reactant | 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1OC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 2,5-Dimethyl-2H-[1,2,4]triazole-3-carbaldehyde | CN1N=C(N=C1C=O)C | C5H7N3O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
solvent | H2O | O | H2O
product | 2-[4-(2-{2-Cyclopentyl-5-[(1,3-dimethyl-1H-1,2,4-triazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-fluorophenyl]-2-methylpropanenitrile | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NC(=NN1C)C)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C27H33FN4O3
